US06211245B1
2-[2-(4-Fluorophenyl)ethyl]-5-fluorobenzoic acid
A mixture of 2-[2-(4-fluorophenyl)ethyl]-5-fluorobenzonitrile (2.12 g, 8.72 mmol, 1 equiv) and aq. NaOH (10N; 3.9 mL, 39.3 mmol, 4.5 equiv) in ethylene glycol (25 mL) was heated at 190° C. for 24 h. After allowing the mixture to cool, H2O (100 mL) was added followed by 12N HCl (8 mL). The cloudy mixture precipitated the desired product as a cream-colored solid. This material was washed with H2O (3×20 mL) and dried under vacuum (18 h, 25° C., 0.1 mm Hg°) to provide 2.02 g (88.4%) of a cream-colored solid.

reactant | 2-[2-(4-fluorophenyl)ethyl]-5-fluorobenzonitrile | 8.72 mmol, 2.12 g, 1 equiv | FC1=CC=C(C=C1)CCC1=C(C#N)C=C(C=C1)F | C15H11F2N
reactant | NaOH | 39.3 mmol, 10N, 3.9 mL, 4.5 equiv | [OH-].[Na+]
reactant | H2O | 100 mL | O | H2O
reactant | HCl | 12N, 8 mL | Cl | ClH
solvent | ethylene glycol | 25 mL | C(CO)O | C2H6O2
product | 2-[2-(4-Fluorophenyl)ethyl]-5-fluorobenzoic acid | 2.02 g, 88.4% | FC1=CC=C(C=C1)CCC1=C(C(=O)O)C=C(C=C1)F | C15H12F2O2
